US07138533B2
9-(5-Chloropentanoyl)-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one
Using 2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one and 5-chlorovaleryl chloride according to the same method as that of Reference Example 1, the title compound (3.53 g) was obtained as colorless crystals having a melting point of 83–84° C.

reactant | 2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one | C1CCN2C3=C(C=CC=C13)CCC2=O | C12H13NO
reactant | 5-chlorovaleryl chloride | ClCCCCC(=O)Cl | C5H8Cl2O
product | 9-(5-Chloropentanoyl)-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one | 3.53 g | ClCCCCC(=O)C=1C=C2CCCN3C2=C(C1)CCC3=O | C17H20ClNO2
